US04096253
1-Acetoxy-3-methoxyestra-1,3,5(10)-trien-17β-ol (1.0 g, 2.9 mM) is added to a solution of 25 ml benzene, 0.36 g glacial acetic acid and 3.78 g of trifluoroacetic anhydride through Gooch tubing over a period of 15 mins. The resulting solution is stirred at room temperature for 1/2 hr, washed with 10% NaHCO3, H2O, dried over Na2SO4 and evaporated in vacuo to give a white solid which after recrystallization from hexane gives 1-acetoxy-3-methoxy-17β-trifluoroacetoxyestra-1,3,5(10)-triene, yield 1.05 g (82%); m.p. 137°-138°.

reactant | 1-Acetoxy-3-methoxyestra-1,3,5(10)-trien-17β-ol | 2.9 mM, 1.0 g | C(C)(=O)OC1=CC(=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C12)O)OC | C21H28O4
reactant | benzene | 25 ml | C1=CC=CC=C1 | C6H6
reactant | trifluoroacetic anhydride | 3.78 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | acetic acid | 0.36 g | C(C)(=O)O | C2H4O2
product | 1-acetoxy-3-methoxy-17β-trifluoroacetoxyestra-1,3,5(10)-triene | C(C)(=O)OC1=CC(=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C12)OC(C(F)(F)F)=O)OC | C23H27F3O5
